US09238631B2
b) (5S)-6-tert-Butoxy-2-(tert-butoxycarbonyl)-5-[(tert-butoxycarbonyl)amino]-2-[(5-hydroxypyridin-2-yl)methyl]-6-oxohexanoic acid
To a solution of 310 mg of 4-benzyl 1,4-di-tert-butyl (1S)-5-[5-(benzyloxy)pyridin-2-yl]-1-[(tert-butoxycarbonyl)amino]pentane-1,4,4-tricarboxylate (0.44 mmol) in methanol (10 mL) was added a 10% palladium on carbon hydrogenation catalyst (15 mg) at room temperature. The suspension was stirred for 3 h at room temperature under an atmosphere of hydrogen. The catalyst was removed by filtration and all volatiles were removed in vacuo. The crude product (234 mg, quantitative yield) was used in the next step without further purification.

reactant | 4-benzyl 1,4-di-tert-butyl (1S)-5-[5-(benzyloxy)pyridin-2-yl]-1-[(tert-butoxycarbonyl)amino]pentane-1,4,4-tricarboxylate | 0.44 mmol, 310 mg | C(C1=CC=CC=C1)OC=1C=CC(=NC1)CC(CC[C@@H](C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)(C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C40H52N2O9
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | (5S)-6-tert-Butoxy-2-(tert-butoxycarbonyl)-5-[(tert-butoxycarbonyl)amino]-2-[(5-hydroxypyridin-2-yl)methyl]-6-oxohexanoic acid | 234 mg, quantitative yield | C(C)(C)(C)OC([C@H](CCC(C(=O)O)(CC1=NC=C(C=C1)O)C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=O | C26H40N2O9
